US04985419
A solution of boron tribromide (5.01 g) in methylene chloride (100 cc) is added dropwise and with stirring during 15 minutes to a solution, cooled to -50° C., of N-(2-methoxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (4.74 g) in methylene chloride (100 cc). Stirring is maintained at -50° C. for 45 minutes and then at 20° C. for 48 hours. Saturated aqueous sodium hydrogen carbonate solution (120 cc) is then added cautiously. After stirring until the evolution of carbon dioxide has ceased, the organic phase is separated, washed with distilled water (3×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The yellow meringue-like residue is purified by chromatography on a column (height: 48 cm; diameter: 2.4 cm) of silica gel (0.06-0.2 mm), eluting with ethyl acetate (2 liters) and collecting 100-cc fractions. Fractions 4 to 15 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The yellow meringue-like residue (2.84 g) is purified by chromatography on a column (height: 33 cm; diameter: 2.4 cm) of silica gel (0.06-0.2 mm), eluting successively with a mixture (50:50 by volume) (250 cc) of cyclohexane and ethyl acetate, then with a mixture (25:75 by volume) (500 cc) of cyclohexane and ethyl acetate and then with ethyl acetate (500 cc) and collecting 60-cc fractions. Fractions 7 to 18 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give N-(2-hydroxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide (1.9 g) in the form of a yellow product of meringue-like consistency.

reactant | boron tribromide | 5.01 g | B(Br)(Br)Br | BBr3
reactant | N-(2-methoxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 4.74 g | COC1=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC=C1 | C28H31N3O2S
reactant | sodium hydrogen carbonate | 120 cc | C(O)([O-])=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxybenzyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | 1.9 g | OC1=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC=C1 | C27H29N3O2S
